US05891909
b) 3-(2-Methoxyphenylsulfonyloxy)-5-methylphenol
4-Methylmorpholine (3.2 mL, 29.1 mmol) was added to a mixture of 3-(5-chloro-2- methoxyphenylsulfonyloxy)-5-methylphenol (8.82 g, 26.8 mmol, as prepared in the preceding step) and 10% palladium on carbon (2.23 g) in deoxygenated methanol (15 mL). The mixture was hydrogenated (atmospheric pressure) at ambient temperature for 3 h then filtered through Celite with methanol. Solvent was removed in vacuo and the crude product was purified by flash column chromatography (dichloromethane to 5% ethyl acetate in dichloromethane) to give the title compound (4.97 g, 63%) as a colorless syrup. 1H-NMR (300 MHz, DMSO-d,) δ 9.71 (s, 1 H), 7.76 (ddd, 1 H, J=1.7, 7.4, 8.4 Hz), 7.69 (dd, 1 H, J=1.7, 7.9 Hz), 7.38 (d, 1 H, J=8.4 Hz), 7.09 (dt, 1 H, J=1.0, 7.9 Hz), 6.48 (br s, 1 H), 6.33 (br s, 1 H), 6.26 (t, 1 H, J=2.2 Hz), 4.00 (s, 3 H), 2.15 (s, 3 H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C14H14O5S: 317.0 (M+Na). Found: 316.9

reactant | 4-Methylmorpholine | 29.1 mmol, 3.2 mL | CN1CCOCC1 | C5H11NO
reactant | 3-(5-chloro-2- methoxyphenylsulfonyloxy)-5-methylphenol | ClC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O)OC | C14H13ClO5S
catalyst | palladium on carbon | 2.23 g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | 3-(2-Methoxyphenylsulfonyloxy)-5-methylphenol | 4.97 g, 63% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C14H14O5S
